### PR TITLE
Add Erdős Problem 466 (Graham's theorem on distances near integers), link the formal proof

### LINKED ISSUE #6223: Erdős Problem 466
### What is the Erdős problem?

https://www.erdosproblems.com/466

Let $N(X,\delta)$ denote the maximum number of points $P_1,\ldots,P_n$ which can be chosen in a circle of radius $X$ such that $\| \lvert P_i-P_j\rvert \| \geq \delta$ for all $1\leq i<j\leq n$. (Here $\|x\|$ is the distance from $x$ to the nearest integer.) Is there some $\delta>0$ such that $\lim_{X\to \infty}N(X,\delta)=\infty$?

Status: proved (Graham: $N(X,1/10) > \frac{\log X}{10}$; Sárközy: $N(X,\delta) > X^{1/2-\delta^{1/7}}$ for small $\delta$). A formal proof exists in plby/lean-proofs (`Erdos466.erdos_466`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6223.

### What changed
Adds `FormalConjectures/ErdosProblems/466.lean` with `N X δ` (the maximum number of points in a closed disc of radius `X` in `EuclideanSpace ℝ (Fin 2)` whose pairwise distances are all at least `δ` from the nearest integer, using the existing `distToNearestInt`) and:
- `erdos_466` (`research solved`, `answer(True)`): there is `δ > 0` with `N X δ → ∞` as `X → ∞` (Graham). Linked to plby/lean-proofs `Erdos466.erdos_466` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_466.variants.graham`: `N(X, 1/10) > log X / 10`.
- `erdos_466.variants.sarkozy`: Sárközy's bound `N(X, δ) > X^{1/2 - δ^{1/7}}` for small `δ` and large `X` [Sa76].

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos466.erdos_466` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (the two definitions of `N` agree; plby indexes the points by an injective `Fin n → Plane`):

<details>
<summary>Bridge</summary>

```lean
open Metric

namespace Bridge466

/-- The admissible-size sets agree, hence so do the two maxima. -/
lemma N_eq (X δ : ℝ) : Erdos466.N X δ = Erdos466Plby.N X δ := by
  unfold Erdos466.N Erdos466Plby.N Erdos466Plby.admissibleSizes Erdos466Plby.Realizable
  congr 1
  ext n
  simp only [Set.mem_ofPred_eq]
  constructor
  · rintro ⟨c, P, rfl, hPc, hP⟩
    refine ⟨c, fun i => (P.equivFin.symm i : _), fun i j hij => ?_, fun i => hPc (Subtype.coe_prop _),
      fun i j hij => ?_⟩
    · exact P.equivFin.symm.injective (Subtype.ext hij)
    · refine hP (Subtype.coe_prop _) (Subtype.coe_prop _) fun h => hij ?_
      exact P.equivFin.symm.injective (Subtype.ext h)
  · rintro ⟨c, P, hinj, hPc, hP⟩
    refine ⟨c, Finset.univ.image P, by rw [Finset.card_image_of_injective _ hinj]; simp, ?_, ?_⟩
    · intro x hx
      obtain ⟨i, -, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hx)
      exact hPc i
    · rintro x hx y hy hxy
      obtain ⟨i, -, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hx)
      obtain ⟨j, -, rfl⟩ := Finset.mem_image.1 (Finset.mem_coe.1 hy)
      exact hP i j fun h => hxy (h ▸ rfl)

theorem erdos_466_bridge : type_of% Erdos466.erdos_466 := by
  show True ↔ _
  simp only [true_iff, N_eq]
  exact Erdos466Plby.erdos_466

end Bridge466
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«466»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/466.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/466.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
